US09388195B2
A mixture of 1-azabicyclo[2.2.2]octane-2-carboxylic acid (488 mg), thionyl chloride (5 mL) and N,N-dimethylformamide (23 mg) was stirred at room temperature for 15 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in tetrahydrofuran (5 mL). A mixture of methyl 3-amino-5-[1-(4-methoxybenzyl)-3-methyl-1H-pyrazol-4-yl]thiophene-2-carboxylate and methyl 3-amino-5-[1-(4-methoxybenzyl)-5-methyl-1H-pyrazol-4-yl]thiophene-2-carboxylate (750 mg) produced above, and N-ethyl-N-(1-methylethyl)propan-2-amine (0.916 mL) were added, and the mixture was stirred at 60° C. for 2 hr. Ethyl acetate (20 mL) and water (10 mL) were added to the reaction mixture, and the separated aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic layers were washed with brine (20 mL) and dried over anhydrous magnesium sulfate. Insoluble material was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by basic silica gel column chromatography (ethyl acetate/hexane) to give the title compound (534 mg) as a colorless oil.

reactant | 1-azabicyclo[2.2.2]octane-2-carboxylic acid | 488 mg | N12C(CC(CC1)CC2)C(=O)O | C8H13NO2
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 23 mg | CN(C=O)C | C3H7NO
product | N-ethyl-N-(1-methylethyl)propan-2-amine | 0.916 mL | C(C)N(C(C)C)C(C)C | C8H19N
